US05037829
A solution of 8.9 parts of intermediate 13, namely 5-benzoyl-2-nitrobenzonitrile, 166 parts of sulfuric acid and 10 parts of water was heated at 90° C. for 13/4 hours. The reaction mixture was poured into ice-water. The precipitate was filtered off and recrystallized from methanol. The product was filtered off, washed with methanol and 2,2'-oxybispropane and dried in vacuo at 60°-70° C., yielding 5.23 parts (54.8%) of 5-benzoyl-2-nitrobenzamide; mp. 244.3° C. (intermediate 14).

reactant | 5-benzoyl-2-nitrobenzonitrile | C(C1=CC=CC=C1)(=O)C=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C14H8N2O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 5-benzoyl-2-nitrobenzamide | 54.8% | C(C1=CC=CC=C1)(=O)C=1C=CC(=C(C(=O)N)C1)[N+](=O)[O-] | C14H10N2O4
